US04081477
(+)-Pinane-3-carboxylic acid chloride
15 g of (+)-3-carboxypinane of optical rotation [α]D25 = +20.2° (c = 1, CH3OH) are boiled with excess thionyl chloride under reflux in the absence of moisture, until the evolution of gas has ceased. The excess thionylchloride is then distilled, followed by the acid chloride boiling at from 62° to 64° C/0.08 mm Hg and having an optical rotation of [α]D24 = +28.1° (pure).

reactant | (+)-3-carboxypinane | 15 g | C(=O)(O)C1C(C2C(C(C1)C2)(C)C)C | C11H18O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | CH3OH | CO | CH4O
product | (+)-Pinane-3-carboxylic acid chloride | C12C(C(CC(C1(C)C)C2)C(=O)Cl)C | C11H17ClO
